US08084611B2
Trifluoroacetic acid anhydride (7.7 ml) was added dropwise to a solution of 5-bromovaleric acid (5 g) in tetrahydrofuran (25 ml) under nitrogen atmosphere at −40° C. and the solution was stirred at −40° C. for 30 minutes. To the mixture, was added tert-butanol (25 ml) at −40° C. and the stirring was continued for 3 hours while the temperature was gradually raised up to room temperature. Water and ethyl acetate were added to the mixture and the organic layer was separated, washed with a saturated sodium hydrogen carbonate aq. solution three times and then a saturated brine, dried over magnesium sulfate and concentrated in vacuo to give 5-bromovaleric acid tert-butyl ester (5.88 g). MS (m/z): 237/239 [M+H]+.

reactant | Trifluoroacetic acid anhydride | 7.7 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 5-bromovaleric acid | 5 g | BrCCCCC(=O)O | C5H9BrO2
reactant | tert-butanol | 25 ml | C(C)(C)(C)O | C4H10O
reactant | Water | O | H2O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-bromovaleric acid tert-butyl ester | 5.88 g | C(C)(C)(C)OC(CCCCBr)=O | C9H17BrO2
